US04272445
The process according to claim 1 wherein androst-4-en-3,17-dione is treated with ethyl orthoformate to yield 3-ethoxyandrosta-3,5(6)-dien-17-one.

reactant | androst-4-en-3,17-dione | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C19H26O2
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
product | 3-ethoxyandrosta-3,5(6)-dien-17-one | C(C)OC1=CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C21H30O2
